US07427616B2
{(3-Iodophenyl)[(4-methylphenyl)sulfonyl]methyl}formamide
Trimethylsilylchloride (9.1 mL) was added to a stirred solution of 3-iodobenzaldehyde (15.1 g) and formamide (6.5 mL) in MeCN (34 mL) and toluene (34 mL) under an inert atmosphere. The reaction was then heated at 50° C. for 5 hours. Toluene sulfinic acid (15.3 g) was added and the reaction mixture was heated at 50° C. for a fisher 5 hours. The reaction mixture was cooled to ambient temperature, methyl t-butylether (55 mL) was added and stirred for 5 minutes. Water (275 mL) was added, the reaction cooled to 0° C. and stirred for 1 hour. The solid was filtered and the reaction flask was washed with MTBE (2×35 mL) and poured over the filtered cake. The solid was dried in a vacuum oven at 60° C. for 10 hours to afford impure title compound as a solid (14 g, 51%) which was used without further purification. A small sample was crystallised from EtOH;

reactant | Trimethylsilylchloride | 9.1 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | 3-iodobenzaldehyde | 15.1 g | IC=1C=C(C=O)C=CC1 | C7H5IO
reactant | formamide | 6.5 mL | C(=O)N | CH3NO
reactant | Toluene sulfinic acid | 15.3 g | C=1(C(=CC=CC1)S(=O)O)C | C7H8O2S
solvent | MeCN | 34 mL | CC#N | C2H3N
solvent | toluene | 34 mL | C1(=CC=CC=C1)C | C7H8
solvent | Water | 275 mL | O | H2O
solvent | methyl t-butylether | 55 mL | COC(C)(C)C | C5H12O
product | {(3-Iodophenyl)[(4-methylphenyl)sulfonyl]methyl}formamide | 14 g, 51% | IC=1C=C(C=CC1)C(S(=O)(=O)C1=CC=C(C=C1)C)NC=O | C15H14INO3S
